US08871766B2
B) 4-(2,4-difluorobenzyl)-4-hydroxypiperidine hydrochloride
To a solution of tert-butyl 4-(2,4-difluorobenzyl)-4-hydroxypiperidine-1-carboxylate (3.7 g) in ethanol (30 mL) was added 2.0 M HCl/ethanol solution (28 mL), and the mixture was stirred overnight at room temperature. The solvent was evaporated under reduced pressure, and the obtained solid was recrystallized from ethyl acetate/diisopropyl ether to give the title compound (2.9 g).

reactant | tert-butyl 4-(2,4-difluorobenzyl)-4-hydroxypiperidine-1-carboxylate | 3.7 g | FC1=C(CC2(CCN(CC2)C(=O)OC(C)(C)C)O)C=CC(=C1)F | C17H23F2NO3
reactant | HCl ethanol | 2.0 M, 28 mL | Cl.C(C)O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-(2,4-difluorobenzyl)-4-hydroxypiperidine hydrochloride | 2.9 g | Cl.FC1=C(CC2(CCNCC2)O)C=CC(=C1)F | InChI=1S/C12H15F2NO.ClH/c13-10-2-1-9(11(14)7-10)8-12(16)3-5-15-6-4-12;/h1-2,7,15-16H,3-6,8H2;1H
